US06451816B1
4-(1-Benzylpiperidin-3-ylidene)-butylamine
8.0 g (33.3 mmol) 4-(1-benzylpiperidin-3-ylidene)-butyronitrile are dissolved in 80 ml ethanol and added to a spatula tip of Raney-Nickel. The mixture is stirred under hydrogen atmosphere until consumption of the theoretical amount of hydrogen to be taken up (ca. 5 days). The mixture is filtered from the catalyst and the solvent is removed under vacuum. The residue is chromatographically purified Voice over silica gel with CHCl3/CH3OH/NH4OH (90/10/1). After drawing off the solvent, a colorless oil remains which is further processed without additional purification. Yield. 3.9 g (47%)

reactant | 4-(1-benzylpiperidin-3-ylidene)-butyronitrile | 33.3 mmol, 8.0 g | C(C1=CC=CC=C1)N1CC(CCC1)=CCCC#N | C16H20N2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 80 ml | C(C)O | C2H6O
catalyst | Raney-Nickel | [Ni] | Ni
product | 4-(1-Benzylpiperidin-3-ylidene)-butylamine | C(C1=CC=CC=C1)N1CC(CCC1)=CCCCN | C16H24N2
